US05593988
phosphonium salt (141 g) obtained from n-nonyl bromide (115 ml) and triphenylphosphine (78.5 g) was dissolved in dry tetrahydrofuran (500 ml) and thereto was dropwise added n-butyl lithium (372 ml, 1.6M hexane solution) over not less than 1 hour at 0° C. After the dropwise addition, the reaction mixture was stirred at said temperature for 30 minutes and at room temperature for 1 hour, and a solution of 3-nitrobenzaldehyde (45.3 g) in tetrahydrofuran (150 ml) was dropwise added thereto at 0° C. over 1 hour. The reaction mixture was stirred at room temperature for 10 hours and filtered. The residue was washed with ether. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (hexane/ethyl acetate=100:1) to give 57.3 g of 3-(1-decenyl)nitrobenzene (cis/trans=7:3).

reactant | n-butyl lithium | 1.6M, 372 ml | C(CCC)[Li]
reactant | 3-nitrobenzaldehyde | 45.3 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(1-decenyl)nitrobenzene | 57.3 g | C(=CCCCCCCCC)C=1C=C(C=CC1)[N+](=O)[O-] | C16H23NO2
